US07507740B2
(iv) Production of 6-((1E)-3-{[tert-butyl(dimethyl)silyl]oxy}-1-propenyl)-5-ethyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine
6-((1E)-3-{[tert-Butyl(dimethyl)silyl]oxy}-1-propenyl)-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine (100 mg) was dissolved in N,N-dimethylformamide (0.786 mL), cesium carbonate (102.6 mg) was added, and the mixture was stirred at room temperature for 20 min. Iodoethane (0.0231 mL) was added and the mixture was stirred at room temperature for 2 hrs and at 40° C. for 4 hrs. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (50 mL) and washed successively with water (30 mL) and saturated brine (30 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→50:50) to give the title compound (79 mg) as an oil.

reactant | 6-((1E)-3-{[tert-Butyl(dimethyl)silyl]oxy}-1-propenyl)-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine | 100 mg | [Si](C)(C)(C(C)(C)C)OC/C=C/C1=CC=2N=CN=C(C2N1)OC1=CC=CC=C1 | C21H27N3O2Si
reactant | cesium carbonate | 102.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Iodoethane | 0.0231 mL | ICC | C2H5I
solvent | N,N-dimethylformamide | 0.786 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-((1E)-3-{[tert-butyl(dimethyl)silyl]oxy}-1-propenyl)-5-ethyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine | 79 mg | [Si](C)(C)(C(C)(C)C)OC/C=C/C1=CC=2N=CN=C(C2N1CC)OC1=CC=CC=C1 | C23H31N3O2Si
